US04588749
N-(2-(4-Methylphenoxy)-1-methylethyl)-2-hydroxy-2-phenylethanamine
The title compound was prepared in the manner described in Example 3 using 2-hydroxy-2-phenylethanamine and (4-methylphenoxy)propan-2-one. Recrystallization from heptane gave the title compound m.p. 87-105. τ(CDCL3) 8.9 (3H, d, J=6 Hz), 7.7 (3H, s), 6.7-7.5 (3H, +2H (disappears with D2O)), 6.2 (2H, m), 5.3 (1H, m), 3.3 (2H, d, J=9 Hz), 2.9 (2H, d, J=9 Hz), 2.7 (5H, m).

reactant | 2-hydroxy-2-phenylethanamine | OC(CN)C1=CC=CC=C1 | C8H11NO
reactant | (4-methylphenoxy)propan-2-one | CC1=CC=C(OCC(C)=O)C=C1 | C10H12O2
product | N-(2-(4-Methylphenoxy)-1-methylethyl)-2-hydroxy-2-phenylethanamine | CC1=CC=C(OCC(C)NCC(C2=CC=CC=C2)O)C=C1 | C18H23NO2
